US03991071
To 75 ml. dry tetrahydrofuran were added 6.8 g. imidazole and 12.075 g. N-2-phenoxyethyl-N-propylcarbamoyl chloride. The reactants were boiled together under reflux for 24 hours, cooled to room temperature and filtered to remove imidazole hydrochloride. The solvent was then removed by evaporation from the steam bath, the last traces being removed under vacuum. An oily residue remained which was extracted into ether, washed with water, dried over anhydrous sodium sulphate, the solvent removed and the residual oil distilled under vacuum, to give 1-(N-2-phenoxyethyl-N-propylcarbamoyl) imidazole, boiling point 209° C./1.0 mm.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | N-2-phenoxyethyl-N-propylcarbamoyl chloride | O(C1=CC=CC=C1)CCN(C(=O)Cl)CCC | C12H16ClNO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(N-2-phenoxyethyl-N-propylcarbamoyl) imidazole | O(C1=CC=CC=C1)CCN(C(=O)N1C=NC=C1)CCC | C15H19N3O2
